US07375099B2
c) N-(2-Fluoro-benzyl)-2-methyl-N′-(5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-malonamide
2-Methyl-N-(5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-malonamic acid (20 mg, 0.059 mmol) and 2-fluorobenzylamine (7.4 mg, 0.059 mmol) were placed in a disposable polypropylene tube and dissolved in DMF (2 ml). TPTU (2-(2-pyridon-1-yl)-1,1,3,3-tetramethyl uronium tetrafluoroborate, 19 mg, 0.065 mmol) was added, and the mixture was shaken overnight at r.t. The title compound, MS: m/e=446.2 (M+H+), was isolated from the reaction mixture by automated, preparative HPLC (YMC CombiPrep C18 column 50×20 mm, solvent gradient 5-95% CH3CN in 0.1% TFA(aq) over 6.0 min, λ=230 nm, flow rate 40 ml/min).

reactant | 2-Methyl-N-(5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-malonamic acid | 0.059 mmol, 20 mg | CC(C(=O)O)C(=O)NC1C2=C(C3=C(N(C1=O)C)C=CC=C3)C=CC=C2 | C19H18N2O4
reactant | 2-fluorobenzylamine | 0.059 mmol, 7.4 mg | FC1=C(CN)C=CC=C1 | C7H8FN
reactant | TPTU | 0.065 mmol, 19 mg | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C=CC=CC1=O
reactant | CH3CN | CC#N | C2H3N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-(2-Fluoro-benzyl)-2-methyl-N′-(5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-malonamide | FC1=C(CNC(C(C(=O)NC2C3=C(C4=C(N(C2=O)C)C=CC=C4)C=CC=C3)C)=O)C=CC=C1 | C26H24FN3O3
